US04820834
N-(5-(2-Fluorophenyl)-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl)-4-pentylbenzamide
The procedure of Example 134 was carried out using equivalent amounts of 3(R,S)-amino-1,3-dihydro-1-methyl-5-(2-fluorophenyl)-2H-1,4-benzodiazepin-2-one and 4-n-pentylbenzoyl chloride. The product was purified by chromatography on silica gel (5% (v/v) Et2O in CH2Cl2 elution) The combined product fractions were evaporated to dryness in vacuo to give the title compound which was dried at 65° C.

reactant | 3(R,S)-amino-1,3-dihydro-1-methyl-5-(2-fluorophenyl)-2H-1,4-benzodiazepin-2-one | NC1C(N(C2=C(C(=N1)C1=C(C=CC=C1)F)C=CC=C2)C)=O | C16H14FN3O
reactant | 4-n-pentylbenzoyl chloride | C(CCCC)C1=CC=C(C(=O)Cl)C=C1 | C12H15ClO
product | N-(5-(2-Fluorophenyl)-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl)-4-pentylbenzamide | FC1=C(C=CC=C1)C1=NC(C(N(C2=C1C=CC=C2)C)=O)NC(C2=CC=C(C=C2)CCCCC)=O | C28H28FN3O2
